US04358618
A stock solution containing 6 wt% DMPC, 15 wt% cumene and 50 ppm sulfuric acid with the balance composed of equimolar phenol and acetone was distributed among several melting point capillary tubes which were subsequently sealed and heated for various lengths of time in a stirred oil bath. The tubes were then quickly cooled by immersion in an ice bath and the contents were analyzed by gas chromatography. The amount of AMS formed increased with time up to a maximum yield and then declined as increased amounts of AMS dimers and cumylphenol were formed. Table II records the maximum AMS yield obtained at each temperature, as well as the heating time required to reach that yield. It is clear from the data of Table II that the best yields of AMS were obtained at temperatures over 90° C., e.g., 120° and 130° C.

reactant | DMPC | COC(=O)OC(=O)OC | C4H6O5
reactant | cumene | C1(=CC=CC=C1)C(C)C | C9H12
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | acetone | CC(=O)C | C3H6O
product | cumylphenol | C(C)(C)(C1=CC=CC=C1)C1=C(C=CC=C1)O | C15H16O
